US04581452
A mixture of α-trifluoromethylacrylic acid (700 mg; 5 mmoles), urea (300 mg; 5 mmoles) and acetic anhydride (2 ml) was heated at 100° C. with stirring for 1 hour. After cooling to 0° C., the precipitated solid was filtered off to give 450 mg (yield: 40%) of 5-trifluoromethyl-5,6-dihydrouracil. The solvent was evaporated under reduced pressure from the filtrate, and the residue was recrystallized from ethanol to give additional 160 mg (yield: 27%) of 5-trifluoromethyl-5,6-dihydrouracil. The total yield of the product was 67%.

reactant | α-trifluoromethylacrylic acid | 5 mmoles, 700 mg | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | urea | 5 mmoles, 300 mg | NC(=O)N | CH4N2O
reactant | acetic anhydride | 2 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-trifluoromethyl-5,6-dihydrouracil | 450 mg, yield: 40% | FC(C1C(NC(NC1)=O)=O)(F)F | C5H5F3N2O2
